* SPICE netlist generated by Yosys 0.9 (git sha1 1979e0b)

.SUBCKT sar_logic clk rstn en comp cal valid result_0_ result_1_ result_2_ result_3_ result_4_ result_5_ result_6_ result_7_ sample ctlp_0_ ctlp_1_ ctlp_2_ ctlp_3_ ctlp_4_ ctlp_5_ ctlp_6_ ctlp_7_ ctln_0_ ctln_1_ ctln_2_ ctln_3_ ctln_4_ ctln_5_ ctln_6_ ctln_7_ trim_0_ trim_1_ trim_2_ trim_3_ trim_4_ trimb_0_ trimb_1_ trimb_2_ trimb_3_ trimb_4_ clkc
X0 state_0_ 1 sky130_fd_sc_hd__clkinv_1
X1 en 2 sky130_fd_sc_hd__clkinv_1
X2 state_0_ state_1_ valid state_2_ sky130_fd_sc_hd__nor3b_1
X3 state_0_ 3 state_1_ sky130_fd_sc_hd__lpflow_isobufsrc_1
X4 state_2_ state_0_ 4 state_1_ sky130_fd_sc_hd__and3b_1
X5 state_2_ 5 state_0_ state_1_ sky130_fd_sc_hd__nand3b_1
X6 state_0_ state_2_ 6 sky130_fd_sc_hd__nor2_1
X7 state_1_ 6 7 sky130_fd_sc_hd__nand2_1
X8 5 7 sample sky130_fd_sc_hd__nand2_1
X9 trim_mask_0_ trim_val_0_ trimb_0_ sky130_fd_sc_hd__nor2_1
X10 trimb_0_ trim_0_ sky130_fd_sc_hd__clkinv_1
X11 trim_val_1_ trim_mask_1_ trimb_1_ sky130_fd_sc_hd__nor2_1
X12 trimb_1_ trim_1_ sky130_fd_sc_hd__clkinv_1
X13 trim_val_2_ trim_mask_2_ trimb_2_ sky130_fd_sc_hd__nor2_1
X14 trimb_2_ trim_2_ sky130_fd_sc_hd__clkinv_1
X15 trim_val_3_ trim_mask_3_ trimb_3_ sky130_fd_sc_hd__nor2_1
X16 trimb_3_ trim_3_ sky130_fd_sc_hd__clkinv_1
X17 trim_val_4_ trim_mask_4_ trimb_4_ sky130_fd_sc_hd__nor2_1
X18 trimb_4_ trim_4_ sky130_fd_sc_hd__clkinv_1
X19 mask_0_ result_0_ ctln_0_ sky130_fd_sc_hd__nor2_1
X20 ctln_0_ ctlp_0_ sky130_fd_sc_hd__clkinv_1
X21 mask_1_ result_1_ ctln_1_ sky130_fd_sc_hd__nor2_1
X22 ctln_1_ ctlp_1_ sky130_fd_sc_hd__clkinv_1
X23 mask_2_ result_2_ ctln_2_ sky130_fd_sc_hd__nor2_1
X24 ctln_2_ ctlp_2_ sky130_fd_sc_hd__clkinv_1
X25 mask_3_ result_3_ ctln_3_ sky130_fd_sc_hd__nor2_1
X26 ctln_3_ ctlp_3_ sky130_fd_sc_hd__clkinv_1
X27 mask_4_ result_4_ ctln_4_ sky130_fd_sc_hd__nor2_1
X28 ctln_4_ ctlp_4_ sky130_fd_sc_hd__clkinv_1
X29 mask_5_ result_5_ ctln_5_ sky130_fd_sc_hd__nor2_1
X30 ctln_5_ ctlp_5_ sky130_fd_sc_hd__clkinv_1
X31 mask_6_ result_6_ ctln_6_ sky130_fd_sc_hd__nor2_1
X32 ctln_6_ ctlp_6_ sky130_fd_sc_hd__clkinv_1
X33 mask_7_ result_7_ ctln_7_ sky130_fd_sc_hd__nor2_1
X34 ctln_7_ ctlp_7_ sky130_fd_sc_hd__clkinv_1
X35 cal_itt_0_ cal_itt_1_ 8 sky130_fd_sc_hd__nand2_1
X36 cal_itt_0_ cal_itt_1_ 9 cal_itt_2_ cal_itt_3_ sky130_fd_sc_hd__and4b_1
X37 trim_mask_0_ 9 10 sky130_fd_sc_hd__nand2_1
X38 11 cal_itt_0_ 10 5 sky130_fd_sc_hd__a21oi_1
X39 12 state_2_ en 3 sky130_fd_sc_hd__o21ai_0
X40 12 13 sky130_fd_sc_hd__clkinv_1
X41 14 cal_itt_0_ 12 11 sky130_fd_sc_hd__a21o_1
X42 cal_itt_0_ cal_itt_1_ 15 sky130_fd_sc_hd__nor2_1
X43 cal_itt_1_ 12 16 sky130_fd_sc_hd__nand2_1
X44 17 trim_mask_0_ 9 8 sky130_fd_sc_hd__a21oi_1
X45 18 5 15 16 17 sky130_fd_sc_hd__o31ai_1
X46 cal_itt_2_ 8 19 sky130_fd_sc_hd__xor2_1
X47 20 10 19 5 sky130_fd_sc_hd__a21oi_1
X48 21 cal_itt_2_ 12 20 sky130_fd_sc_hd__a21o_1
X49 22 cal_itt_0_ cal_itt_1_ 5 cal_itt_2_ sky130_fd_sc_hd__a31oi_1
X50 23 12 22 cal_itt_3_ sky130_fd_sc_hd__o21a_1
X51 5 24 9 sky130_fd_sc_hd__lpflow_inputiso1p_1
X52 state_0_ 25 state_2_ sky130_fd_sc_hd__lpflow_isobufsrc_1
X53 state_2_ state_1_ 26 state_0_ sky130_fd_sc_hd__nor3b_1
X54 en 26 27 sky130_fd_sc_hd__and2_0
X55 28 cal_count_0_ 24 27 sky130_fd_sc_hd__a21oi_1
X56 29 cal_count_0_ 5 28 sky130_fd_sc_hd__o21ai_0
X57 30 cal_count_0_ cal_count_1_ comp sky130_fd_sc_hd__a21boi_0
X58 cal_count_0_ cal_count_1_ 31 sky130_fd_sc_hd__nor2_1
X59 cal_count_0_ cal_count_1_ 32 comp sky130_fd_sc_hd__and3b_1
X60 30 31 33 32 sky130_fd_sc_hd__nor3_1
X61 cal_count_0_ cal_count_1_ 34 comp sky130_fd_sc_hd__nor3b_1
X62 35 24 33 13 cal_count_1_ 34 sky130_fd_sc_hd__o32a_1
X63 32 34 36 sky130_fd_sc_hd__nor2_1
X64 37 cal_count_2_ 36 24 sky130_fd_sc_hd__o21ba_1
X65 38 24 36 cal_count_2_ sky130_fd_sc_hd__o21ai_0
X66 39 12 37 38 sky130_fd_sc_hd__o21ai_0
X67 cal_count_3_ 12 40 sky130_fd_sc_hd__nand2_1
X68 cal_count_2_ 41 32 34 sky130_fd_sc_hd__mux2i_1
X69 cal_count_3_ 41 42 sky130_fd_sc_hd__xor2_1
X70 43 24 42 40 sky130_fd_sc_hd__o21ai_0
X71 en_co_clk 27 44 sky130_fd_sc_hd__nor2_1
X72 45 trim_mask_0_ 9 5 sky130_fd_sc_hd__a21oi_1
X73 3 25 46 sky130_fd_sc_hd__nor2_1
X74 en_co_clk 46 47 sky130_fd_sc_hd__nand2_1
X75 state_1_ state_0_ 48 state_2_ sky130_fd_sc_hd__and3b_1
X76 48 49 mask_0_ sky130_fd_sc_hd__lpflow_isobufsrc_1
X77 26 45 50 49 sky130_fd_sc_hd__nor3_1
X78 51 47 50 44 sky130_fd_sc_hd__a21oi_1
X79 4 9 52 sky130_fd_sc_hd__and2_0
X80 4 9 53 sky130_fd_sc_hd__nand2_1
X81 state_0_ state_2_ 54 state_1_ sky130_fd_sc_hd__nor3_1
X82 state_1_ calibrate 6 55 sky130_fd_sc_hd__and3_1
X83 54 56 55 sky130_fd_sc_hd__lpflow_inputiso1p_1
X84 57 trim_mask_0_ cal_count_3_ trim_val_0_ 52 sky130_fd_sc_hd__a31oi_1
X85 56 57 58 sky130_fd_sc_hd__nor2_1
X86 59 cal_count_3_ 52 trim_val_1_ sky130_fd_sc_hd__a21oi_1
X87 trimb_1_ 56 60 59 sky130_fd_sc_hd__nor3_1
X88 61 cal_count_3_ 52 trim_val_2_ sky130_fd_sc_hd__a21oi_1
X89 trimb_2_ 56 62 61 sky130_fd_sc_hd__nor3_1
X90 63 cal_count_3_ 52 trim_val_3_ sky130_fd_sc_hd__a21oi_1
X91 trimb_3_ 56 64 63 sky130_fd_sc_hd__nor3_1
X92 trim_val_4_ 65 55 sky130_fd_sc_hd__lpflow_isobufsrc_1
X93 66 cal_count_3_ trim_mask_4_ 54 65 52 sky130_fd_sc_hd__a311o_1
X94 67 4 55 24 sky130_fd_sc_hd__o21ai_0
X95 68 trim_mask_1_ 52 67 trim_mask_0_ sky130_fd_sc_hd__a22o_1
X96 69 trim_mask_2_ 52 67 trim_mask_1_ sky130_fd_sc_hd__a22o_1
X97 70 trim_mask_3_ 52 67 trim_mask_2_ sky130_fd_sc_hd__a22o_1
X98 71 trim_mask_4_ 52 67 trim_mask_3_ sky130_fd_sc_hd__a22o_1
X99 72 trim_mask_4_ 53 55 sky130_fd_sc_hd__a21o_1
X100 73 state_1_ en 25 sky130_fd_sc_hd__o21ai_0
X101 74 mask_1_ 48 73 mask_0_ sky130_fd_sc_hd__a22o_1
X102 75 mask_2_ 48 73 mask_1_ sky130_fd_sc_hd__a22o_1
X103 76 mask_3_ 48 73 mask_2_ sky130_fd_sc_hd__a22o_1
X104 77 mask_4_ 48 73 mask_3_ sky130_fd_sc_hd__a22o_1
X105 78 mask_5_ 48 73 mask_4_ sky130_fd_sc_hd__a22o_1
X106 79 mask_6_ 48 73 mask_5_ sky130_fd_sc_hd__a22o_1
X107 80 mask_7_ 48 73 mask_6_ sky130_fd_sc_hd__a22o_1
X108 mask_7_ 27 81 sky130_fd_sc_hd__nor2_1
X109 48 81 82 sky130_fd_sc_hd__nor2_1
X110 83 state_2_ state_1_ state_0_ sky130_fd_sc_hd__a21oi_1
X111 state_2_ state_1_ 84 sky130_fd_sc_hd__nand2_1
X112 85 state_2_ state_1_ 45 sky130_fd_sc_hd__a21oi_1
X113 86 2 26 49 83 sky130_fd_sc_hd__a211oi_1
X114 87 trim_mask_0_ 53 85 86 1 sky130_fd_sc_hd__o221ai_1
X115 27 49 88 sky130_fd_sc_hd__nor2_1
X116 89 calibrate 7 84 88 sky130_fd_sc_hd__o211ai_1
X117 90 mask_0_ 48 55 4 sky130_fd_sc_hd__a211oi_1
X118 84 90 91 sky130_fd_sc_hd__nand2_1
X119 cal 27 92 sky130_fd_sc_hd__nand2_1
X120 93 12 45 calibrate sky130_fd_sc_hd__o21ai_0
X121 92 93 94 sky130_fd_sc_hd__nand2_1
X122 comp 48 95 sky130_fd_sc_hd__and2_0
X123 96 mask_0_ 95 result_0_ sky130_fd_sc_hd__a21oi_1
X124 27 96 97 sky130_fd_sc_hd__nor2_1
X125 98 mask_1_ 95 result_1_ sky130_fd_sc_hd__a21oi_1
X126 27 98 99 sky130_fd_sc_hd__nor2_1
X127 100 mask_2_ 95 result_2_ sky130_fd_sc_hd__a21oi_1
X128 27 100 101 sky130_fd_sc_hd__nor2_1
X129 102 mask_3_ 95 result_3_ sky130_fd_sc_hd__a21oi_1
X130 27 102 103 sky130_fd_sc_hd__nor2_1
X131 104 mask_4_ 95 result_4_ sky130_fd_sc_hd__a21oi_1
X132 27 104 105 sky130_fd_sc_hd__nor2_1
X133 106 mask_5_ 95 result_5_ sky130_fd_sc_hd__a21oi_1
X134 27 106 107 sky130_fd_sc_hd__nor2_1
X135 108 mask_6_ 95 result_6_ sky130_fd_sc_hd__a21oi_1
X136 27 108 109 sky130_fd_sc_hd__nor2_1
X137 110 mask_7_ 95 result_7_ sky130_fd_sc_hd__a21oi_1
X138 27 110 111 sky130_fd_sc_hd__nor2_1
X139 en_co_clk clkc clk sky130_fd_sc_hd__lpflow_isobufsrc_1
X140 clk result_0_ 97 rstn sky130_fd_sc_hd__dfrtp_1
X141 clk result_1_ 99 rstn sky130_fd_sc_hd__dfrtp_1
X142 clk result_2_ 101 rstn sky130_fd_sc_hd__dfrtp_1
X143 clk result_3_ 103 rstn sky130_fd_sc_hd__dfrtp_1
X144 clk result_4_ 105 rstn sky130_fd_sc_hd__dfrtp_1
X145 clk result_5_ 107 rstn sky130_fd_sc_hd__dfrtp_1
X146 clk result_6_ 109 rstn sky130_fd_sc_hd__dfrtp_1
X147 clk result_7_ 111 rstn sky130_fd_sc_hd__dfrtp_1
X148 clk calibrate 94 rstn sky130_fd_sc_hd__dfrtp_1
X149 clk state_0_ 87 rstn sky130_fd_sc_hd__dfrtp_1
X150 clk state_1_ 89 rstn sky130_fd_sc_hd__dfrtp_1
X151 clk state_2_ 91 rstn sky130_fd_sc_hd__dfrtp_1
X152 clk mask_0_ 74 rstn sky130_fd_sc_hd__dfrtp_1
X153 clk mask_1_ 75 rstn sky130_fd_sc_hd__dfrtp_1
X154 clk mask_2_ 76 rstn sky130_fd_sc_hd__dfrtp_1
X155 clk mask_3_ 77 rstn sky130_fd_sc_hd__dfrtp_1
X156 clk mask_4_ 78 rstn sky130_fd_sc_hd__dfrtp_1
X157 clk mask_5_ 79 rstn sky130_fd_sc_hd__dfrtp_1
X158 clk mask_6_ 80 rstn sky130_fd_sc_hd__dfrtp_1
X159 clk mask_7_ 82 rstn sky130_fd_sc_hd__dfrtp_1
X160 clk trim_mask_0_ 68 rstn sky130_fd_sc_hd__dfrtp_1
X161 clk trim_mask_1_ 69 rstn sky130_fd_sc_hd__dfrtp_1
X162 clk trim_mask_2_ 70 rstn sky130_fd_sc_hd__dfrtp_1
X163 clk trim_mask_3_ 71 rstn sky130_fd_sc_hd__dfrtp_1
X164 clk trim_mask_4_ 72 rstn sky130_fd_sc_hd__dfrtp_1
X165 clk trim_val_0_ 58 rstn sky130_fd_sc_hd__dfrtp_1
X166 clk trim_val_1_ 60 rstn sky130_fd_sc_hd__dfrtp_1
X167 clk trim_val_2_ 62 rstn sky130_fd_sc_hd__dfrtp_1
X168 clk trim_val_3_ 64 rstn sky130_fd_sc_hd__dfrtp_1
X169 clk trim_val_4_ 66 rstn sky130_fd_sc_hd__dfrtp_1
X170 clk en_co_clk 51 rstn sky130_fd_sc_hd__dfrtp_1
X171 clk cal_count_0_ 29 rstn sky130_fd_sc_hd__dfstp_2
X172 clk cal_count_1_ 35 rstn sky130_fd_sc_hd__dfstp_2
X173 clk cal_count_2_ 39 rstn sky130_fd_sc_hd__dfstp_2
X174 clk cal_count_3_ 43 rstn sky130_fd_sc_hd__dfrtp_1
X175 clk cal_itt_0_ 14 rstn sky130_fd_sc_hd__dfrtp_1
X176 clk cal_itt_1_ 18 rstn sky130_fd_sc_hd__dfrtp_1
X177 clk cal_itt_2_ 21 rstn sky130_fd_sc_hd__dfrtp_1
X178 clk cal_itt_3_ 23 rstn sky130_fd_sc_hd__dfrtp_1
X179 sky130_fd_sc_hd__decap_12
X180 sky130_fd_sc_hd__decap_3
X181 sky130_fd_sc_hd__decap_4
X182 sky130_fd_sc_hd__decap_6
X183 sky130_fd_sc_hd__decap_8
X184 _NC0 sky130_fd_sc_hd__diode_2
X185 _NC1 sky130_fd_sc_hd__lpflow_bleeder_1
X186 sky130_fd_sc_hd__lpflow_decapkapwr_12
X187 sky130_fd_sc_hd__lpflow_decapkapwr_3
X188 sky130_fd_sc_hd__lpflow_decapkapwr_4
X189 sky130_fd_sc_hd__lpflow_decapkapwr_6
X190 sky130_fd_sc_hd__lpflow_decapkapwr_8
V0 co_clk Vss DC 0
.ENDS sar_logic

************************
* end of SPICE netlist *
************************

