* SPICE netlist generated by Yosys 0.9 (git sha1 1979e0b)

.SUBCKT sar_logic clk rstn en comp cal valid result_0_ result_1_ result_2_ result_3_ result_4_ result_5_ result_6_ result_7_ sample ctlp_0_ ctlp_1_ ctlp_2_ ctlp_3_ ctlp_4_ ctlp_5_ ctlp_6_ ctlp_7_ ctln_0_ ctln_1_ ctln_2_ ctln_3_ ctln_4_ ctln_5_ ctln_6_ ctln_7_ trim_0_ trim_1_ trim_2_ trim_3_ trim_4_ trimb_0_ trimb_1_ trimb_2_ trimb_3_ trimb_4_ clkc
X0 state_0_ 1 sky130_fd_sc_hd__clkinv_1
X1 state_0_ 2 state_1_ sky130_fd_sc_hd__lpflow_isobufsrc_1
X2 state_0_ 3 state_1_ sky130_fd_sc_hd__nand2b_1
X3 state_2_ state_0_ 4 state_1_ sky130_fd_sc_hd__and3b_1
X4 state_2_ 5 state_0_ state_1_ sky130_fd_sc_hd__nand3b_1
X5 state_0_ state_2_ 6 state_1_ sky130_fd_sc_hd__nor3b_1
X6 4 sample 6 sky130_fd_sc_hd__lpflow_inputiso1p_1
X7 state_0_ state_1_ valid state_2_ sky130_fd_sc_hd__nor3b_1
X8 mask_0_ result_0_ ctln_0_ sky130_fd_sc_hd__nor2_1
X9 ctln_0_ ctlp_0_ sky130_fd_sc_hd__clkinv_1
X10 result_1_ mask_1_ ctln_1_ sky130_fd_sc_hd__nor2_1
X11 ctln_1_ ctlp_1_ sky130_fd_sc_hd__clkinv_1
X12 result_2_ mask_2_ ctln_2_ sky130_fd_sc_hd__nor2_1
X13 ctln_2_ ctlp_2_ sky130_fd_sc_hd__clkinv_1
X14 result_3_ mask_3_ ctln_3_ sky130_fd_sc_hd__nor2_1
X15 ctln_3_ ctlp_3_ sky130_fd_sc_hd__clkinv_1
X16 result_4_ mask_4_ ctln_4_ sky130_fd_sc_hd__nor2_1
X17 ctln_4_ ctlp_4_ sky130_fd_sc_hd__clkinv_1
X18 result_5_ mask_5_ ctln_5_ sky130_fd_sc_hd__nor2_1
X19 ctln_5_ ctlp_5_ sky130_fd_sc_hd__clkinv_1
X20 result_6_ mask_6_ ctln_6_ sky130_fd_sc_hd__nor2_1
X21 ctln_6_ ctlp_6_ sky130_fd_sc_hd__clkinv_1
X22 result_7_ mask_7_ ctln_7_ sky130_fd_sc_hd__nor2_1
X23 ctln_7_ ctlp_7_ sky130_fd_sc_hd__clkinv_1
X24 cal_itt_0_ cal_itt_1_ 7 sky130_fd_sc_hd__nand2_1
X25 cal_itt_0_ cal_itt_1_ 8 cal_itt_2_ cal_itt_3_ sky130_fd_sc_hd__and4b_1
X26 cal_itt_0_ 9 cal_itt_1_ cal_itt_2_ cal_itt_3_ sky130_fd_sc_hd__nand4b_1
X27 trim_mask_0_ 8 10 sky130_fd_sc_hd__nand2_1
X28 11 cal_itt_0_ 10 5 sky130_fd_sc_hd__a21oi_1
X29 state_2_ en 12 sky130_fd_sc_hd__nor2_1
X30 3 12 13 sky130_fd_sc_hd__nor2_1
X31 14 state_2_ en 2 sky130_fd_sc_hd__o21ai_0
X32 15 cal_itt_0_ 14 11 sky130_fd_sc_hd__a21o_1
X33 cal_itt_0_ cal_itt_1_ 16 sky130_fd_sc_hd__nor2_1
X34 cal_itt_1_ 14 17 sky130_fd_sc_hd__nand2_1
X35 18 trim_mask_0_ 8 7 sky130_fd_sc_hd__a21oi_1
X36 19 5 16 17 18 sky130_fd_sc_hd__o31ai_1
X37 cal_itt_2_ 7 20 sky130_fd_sc_hd__xor2_1
X38 21 10 20 5 sky130_fd_sc_hd__a21oi_1
X39 22 cal_itt_2_ 14 21 sky130_fd_sc_hd__a21o_1
X40 23 cal_itt_0_ cal_itt_1_ 5 cal_itt_2_ sky130_fd_sc_hd__a31oi_1
X41 24 14 23 cal_itt_3_ sky130_fd_sc_hd__o21a_1
X42 4 9 25 sky130_fd_sc_hd__nand2_1
X43 state_0_ 26 state_2_ sky130_fd_sc_hd__lpflow_isobufsrc_1
X44 state_2_ state_1_ 27 state_0_ sky130_fd_sc_hd__nor3b_1
X45 en 27 28 sky130_fd_sc_hd__and2_0
X46 29 cal_count_0_ 25 28 sky130_fd_sc_hd__a21oi_1
X47 30 cal_count_0_ 5 29 sky130_fd_sc_hd__o21ai_0
X48 31 cal_count_0_ cal_count_1_ comp sky130_fd_sc_hd__a21boi_0
X49 cal_count_0_ cal_count_1_ 32 sky130_fd_sc_hd__nor2_1
X50 cal_count_0_ cal_count_1_ 33 comp sky130_fd_sc_hd__and3b_1
X51 31 32 34 33 sky130_fd_sc_hd__nor3_1
X52 cal_count_0_ cal_count_1_ 35 comp sky130_fd_sc_hd__nor3b_1
X53 36 25 34 13 cal_count_1_ 35 sky130_fd_sc_hd__o32a_1
X54 33 35 37 sky130_fd_sc_hd__nor2_1
X55 cal_count_2_ 37 38 sky130_fd_sc_hd__xnor2_1
X56 39 cal_count_2_ 13 25 38 sky130_fd_sc_hd__o22a_1
X57 cal_count_3_ 14 40 sky130_fd_sc_hd__nand2_1
X58 cal_count_2_ 41 33 35 sky130_fd_sc_hd__mux2i_1
X59 cal_count_3_ 41 42 sky130_fd_sc_hd__xor2_1
X60 43 25 42 40 sky130_fd_sc_hd__o21ai_0
X61 en_co_clk 28 44 sky130_fd_sc_hd__nor2_1
X62 45 trim_mask_0_ 8 5 sky130_fd_sc_hd__a21oi_1
X63 2 26 46 sky130_fd_sc_hd__nor2_1
X64 en_co_clk 46 47 sky130_fd_sc_hd__nand2_1
X65 state_1_ state_0_ 48 state_2_ sky130_fd_sc_hd__and3b_1
X66 48 49 mask_0_ sky130_fd_sc_hd__lpflow_isobufsrc_1
X67 27 45 50 49 sky130_fd_sc_hd__nor3_1
X68 51 47 50 44 sky130_fd_sc_hd__a21oi_1
X69 5 9 52 sky130_fd_sc_hd__nor2_1
X70 state_0_ state_2_ 53 state_1_ sky130_fd_sc_hd__nor3_1
X71 calibrate 6 54 sky130_fd_sc_hd__nand2_1
X72 54 55 53 sky130_fd_sc_hd__nand2b_1
X73 trim_mask_0_ trim_val_0_ trimb_0_ sky130_fd_sc_hd__nor2_1
X74 trimb_0_ trim_0_ sky130_fd_sc_hd__clkinv_1
X75 56 trim_mask_0_ cal_count_3_ trim_val_0_ 52 sky130_fd_sc_hd__a31oi_1
X76 55 56 57 sky130_fd_sc_hd__nor2_1
X77 58 cal_count_3_ 52 trim_val_1_ sky130_fd_sc_hd__a21oi_1
X78 trim_val_1_ trim_mask_1_ trimb_1_ sky130_fd_sc_hd__nor2_1
X79 trimb_1_ trim_1_ sky130_fd_sc_hd__clkinv_1
X80 55 58 59 trimb_1_ sky130_fd_sc_hd__nor3_1
X81 60 cal_count_3_ 52 trim_val_2_ sky130_fd_sc_hd__a21oi_1
X82 trim_val_2_ trim_mask_2_ trimb_2_ sky130_fd_sc_hd__nor2_1
X83 trimb_2_ trim_2_ sky130_fd_sc_hd__clkinv_1
X84 55 60 61 trimb_2_ sky130_fd_sc_hd__nor3_1
X85 62 cal_count_3_ 52 trim_val_3_ sky130_fd_sc_hd__a21oi_1
X86 trim_val_3_ trim_mask_3_ trimb_3_ sky130_fd_sc_hd__nor2_1
X87 trimb_3_ trim_3_ sky130_fd_sc_hd__clkinv_1
X88 55 62 63 trimb_3_ sky130_fd_sc_hd__nor3_1
X89 64 trim_val_4_ 54 53 sky130_fd_sc_hd__a21oi_1
X90 cal_count_3_ trim_mask_4_ 65 52 sky130_fd_sc_hd__nand3_1
X91 64 65 66 sky130_fd_sc_hd__nand2_1
X92 6 67 calibrate sky130_fd_sc_hd__nand2b_1
X93 sample 25 68 67 sky130_fd_sc_hd__nand3_1
X94 69 trim_mask_1_ 52 68 trim_mask_0_ sky130_fd_sc_hd__a22o_1
X95 70 trim_mask_2_ 52 68 trim_mask_1_ sky130_fd_sc_hd__a22o_1
X96 71 trim_mask_3_ 52 68 trim_mask_2_ sky130_fd_sc_hd__a22o_1
X97 72 trim_mask_4_ 52 68 trim_mask_3_ sky130_fd_sc_hd__a22o_1
X98 73 5 9 trim_mask_4_ sky130_fd_sc_hd__o21ai_0
X99 54 73 74 sky130_fd_sc_hd__nand2_1
X100 state_2_ en 75 3 sky130_fd_sc_hd__nor3_1
X101 76 state_1_ en 26 sky130_fd_sc_hd__o21ai_0
X102 77 mask_1_ 48 76 mask_0_ sky130_fd_sc_hd__a22o_1
X103 78 mask_2_ 48 76 mask_1_ sky130_fd_sc_hd__a22o_1
X104 79 mask_3_ 48 76 mask_2_ sky130_fd_sc_hd__a22o_1
X105 80 mask_4_ 48 76 mask_3_ sky130_fd_sc_hd__a22o_1
X106 81 mask_5_ 48 76 mask_4_ sky130_fd_sc_hd__a22o_1
X107 82 mask_6_ 48 76 mask_5_ sky130_fd_sc_hd__a22o_1
X108 83 mask_7_ 48 76 mask_6_ sky130_fd_sc_hd__a22o_1
X109 mask_7_ 28 84 sky130_fd_sc_hd__nor2_1
X110 48 84 85 sky130_fd_sc_hd__nor2_1
X111 86 state_2_ state_1_ state_0_ sky130_fd_sc_hd__a21oi_1
X112 state_2_ state_1_ 87 sky130_fd_sc_hd__nand2_1
X113 88 state_2_ state_1_ 45 sky130_fd_sc_hd__a21oi_1
X114 trim_mask_0_ 5 89 9 sky130_fd_sc_hd__nor3_1
X115 49 75 90 86 89 sky130_fd_sc_hd__nor4_1
X116 91 1 88 90 sky130_fd_sc_hd__o21ai_0
X117 28 49 92 sky130_fd_sc_hd__nor2_1
X118 67 87 93 92 sky130_fd_sc_hd__nand3_1
X119 mask_0_ 48 94 sky130_fd_sc_hd__nand2_1
X120 95 state_0_ state_1_ state_2_ sky130_fd_sc_hd__o21ai_0
X121 54 94 96 95 sky130_fd_sc_hd__nand3_1
X122 cal 28 97 sky130_fd_sc_hd__nand2_1
X123 98 14 45 calibrate sky130_fd_sc_hd__o21ai_0
X124 97 98 99 sky130_fd_sc_hd__nand2_1
X125 comp 48 100 sky130_fd_sc_hd__and2_0
X126 101 mask_0_ 100 result_0_ sky130_fd_sc_hd__a21oi_1
X127 28 101 102 sky130_fd_sc_hd__nor2_1
X128 103 mask_1_ 100 result_1_ sky130_fd_sc_hd__a21oi_1
X129 28 103 104 sky130_fd_sc_hd__nor2_1
X130 105 mask_2_ 100 result_2_ sky130_fd_sc_hd__a21oi_1
X131 28 105 106 sky130_fd_sc_hd__nor2_1
X132 107 mask_3_ 100 result_3_ sky130_fd_sc_hd__a21oi_1
X133 28 107 108 sky130_fd_sc_hd__nor2_1
X134 109 mask_4_ 100 result_4_ sky130_fd_sc_hd__a21oi_1
X135 28 109 110 sky130_fd_sc_hd__nor2_1
X136 111 mask_5_ 100 result_5_ sky130_fd_sc_hd__a21oi_1
X137 28 111 112 sky130_fd_sc_hd__nor2_1
X138 113 mask_6_ 100 result_6_ sky130_fd_sc_hd__a21oi_1
X139 28 113 114 sky130_fd_sc_hd__nor2_1
X140 115 mask_7_ 100 result_7_ sky130_fd_sc_hd__a21oi_1
X141 28 115 116 sky130_fd_sc_hd__nor2_1
X142 trim_val_4_ trim_mask_4_ trimb_4_ sky130_fd_sc_hd__nor2_1
X143 trimb_4_ trim_4_ sky130_fd_sc_hd__clkinv_1
X144 en_co_clk clkc clk sky130_fd_sc_hd__lpflow_isobufsrc_1
X145 clk result_0_ 102 rstn sky130_fd_sc_hd__dfrtp_1
X146 clk result_1_ 104 rstn sky130_fd_sc_hd__dfrtp_1
X147 clk result_2_ 106 rstn sky130_fd_sc_hd__dfrtp_1
X148 clk result_3_ 108 rstn sky130_fd_sc_hd__dfrtp_1
X149 clk result_4_ 110 rstn sky130_fd_sc_hd__dfrtp_1
X150 clk result_5_ 112 rstn sky130_fd_sc_hd__dfrtp_1
X151 clk result_6_ 114 rstn sky130_fd_sc_hd__dfrtp_1
X152 clk result_7_ 116 rstn sky130_fd_sc_hd__dfrtp_1
X153 clk calibrate 99 rstn sky130_fd_sc_hd__dfrtp_1
X154 clk state_0_ 91 rstn sky130_fd_sc_hd__dfrtp_1
X155 clk state_1_ 93 rstn sky130_fd_sc_hd__dfrtp_1
X156 clk state_2_ 96 rstn sky130_fd_sc_hd__dfrtp_1
X157 clk mask_0_ 77 rstn sky130_fd_sc_hd__dfrtp_1
X158 clk mask_1_ 78 rstn sky130_fd_sc_hd__dfrtp_1
X159 clk mask_2_ 79 rstn sky130_fd_sc_hd__dfrtp_1
X160 clk mask_3_ 80 rstn sky130_fd_sc_hd__dfrtp_1
X161 clk mask_4_ 81 rstn sky130_fd_sc_hd__dfrtp_1
X162 clk mask_5_ 82 rstn sky130_fd_sc_hd__dfrtp_1
X163 clk mask_6_ 83 rstn sky130_fd_sc_hd__dfrtp_1
X164 clk mask_7_ 85 rstn sky130_fd_sc_hd__dfrtp_1
X165 clk trim_mask_0_ 69 rstn sky130_fd_sc_hd__dfrtp_1
X166 clk trim_mask_1_ 70 rstn sky130_fd_sc_hd__dfrtp_1
X167 clk trim_mask_2_ 71 rstn sky130_fd_sc_hd__dfrtp_1
X168 clk trim_mask_3_ 72 rstn sky130_fd_sc_hd__dfrtp_1
X169 clk trim_mask_4_ 74 rstn sky130_fd_sc_hd__dfrtp_1
X170 clk trim_val_0_ 57 rstn sky130_fd_sc_hd__dfrtp_1
X171 clk trim_val_1_ 59 rstn sky130_fd_sc_hd__dfrtp_1
X172 clk trim_val_2_ 61 rstn sky130_fd_sc_hd__dfrtp_1
X173 clk trim_val_3_ 63 rstn sky130_fd_sc_hd__dfrtp_1
X174 clk trim_val_4_ 66 rstn sky130_fd_sc_hd__dfrtp_1
X175 clk en_co_clk 51 rstn sky130_fd_sc_hd__dfrtp_1
X176 clk cal_count_0_ 30 rstn sky130_fd_sc_hd__dfstp_2
X177 clk cal_count_1_ 36 rstn sky130_fd_sc_hd__dfstp_2
X178 clk cal_count_2_ 39 rstn sky130_fd_sc_hd__dfstp_2
X179 clk cal_count_3_ 43 rstn sky130_fd_sc_hd__dfrtp_1
X180 clk cal_itt_0_ 15 rstn sky130_fd_sc_hd__dfrtp_1
X181 clk cal_itt_1_ 19 rstn sky130_fd_sc_hd__dfrtp_1
X182 clk cal_itt_2_ 22 rstn sky130_fd_sc_hd__dfrtp_1
X183 clk cal_itt_3_ 24 rstn sky130_fd_sc_hd__dfrtp_1
X184 sky130_fd_sc_hd__decap_12
X185 sky130_fd_sc_hd__decap_3
X186 sky130_fd_sc_hd__decap_4
X187 sky130_fd_sc_hd__decap_6
X188 sky130_fd_sc_hd__decap_8
X189 _NC0 sky130_fd_sc_hd__diode_2
X190 _NC1 sky130_fd_sc_hd__lpflow_bleeder_1
X191 sky130_fd_sc_hd__lpflow_decapkapwr_12
X192 sky130_fd_sc_hd__lpflow_decapkapwr_3
X193 sky130_fd_sc_hd__lpflow_decapkapwr_4
X194 sky130_fd_sc_hd__lpflow_decapkapwr_6
X195 sky130_fd_sc_hd__lpflow_decapkapwr_8
V0 co_clk VGND DC 0
.ENDS sar_logic

************************
* end of SPICE netlist *
************************

